US07670613B2
Step B: 2-Chloro-4-(cis-2-methoxy-cyclopentyloxy)-benzonitrile:
2-Chloro-4-(cis-2-hydroxy-cyclopentyloxy)-benzonitrile (76 mg, 0.32 mmol) was added to a flame dried round bottom flask under nitrogen containing 2 mL of dry DMF and 8.5 mg of 60% sodium hydride as an oil dispersion (0.35 mmol). The reaction was stirred at room temperature for 1 h, after which time methyl iodide (54 mg, 0.38 mmol) was added. The mixture was stirred for 16 h, quenched by the dropwise addition of 5 mL of water, and extracted with ether (2×). The combined organic phases were washed with brine, dried (MgSO4), concentrated and purified by reverse phase HPLC (Shimadzu) to give 35 mg of the title compound. GC/MS: 251 (M/Z for C13H14ClNO2)—

reactant | 2-Chloro-4-(cis-2-hydroxy-cyclopentyloxy)-benzonitrile | 0.32 mmol, 76 mg | ClC1=C(C#N)C=CC(=C1)O[C@H]1[C@H](CCC1)O | C12H12ClNO2
reactant | methyl iodide | 0.38 mmol, 54 mg | CI | CH3I
product | 2-Chloro-4-(cis-2-methoxy-cyclopentyloxy)-benzonitrile | 35 mg | ClC1=C(C#N)C=CC(=C1)O[C@H]1[C@H](CCC1)OC | C13H14ClNO2
